US06858627B2
Synthesis of 4-{1-[2-(2-bromophenyl)ethoxy]ethyl}-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline
4-{1-[2-(3-Bromophenyl)ethoxy]ethyl}-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline 3-Bromophenethyl alcohol (37 μL) was treated with 277 μL of 1 M solution of sodium bis(trimethylsilyl)amide in THF and 86 mg of 4-(1-methanesulfonyloxyethyl)-6-(2-methoxyphenyl)-2,2-dimethyl-2H-quinoline-1-carboxylic acid tert-butyl ester to give alkylated product, which was deprotected to yield 13.6 mg of the title compound as a foam.

reactant | 4-{1-[2-(3-Bromophenyl)ethoxy]ethyl}-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline 3-Bromophenethyl alcohol | 37 μL | BrC=1C=C(CCO)C=CC1.BrC=1C=C(C=CC1)CCOC(C)C1=CC(NC2=CC=C(C=C12)C1=C(C=CC=C1)OC)(C)C
reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 4-(1-methanesulfonyloxyethyl)-6-(2-methoxyphenyl)-2,2-dimethyl-2H-quinoline-1-carboxylic acid tert-butyl ester | 86 mg | C(C)(C)(C)OC(=O)N1C(C=C(C2=CC(=CC=C12)C1=C(C=CC=C1)OC)C(C)OS(=O)(=O)C)(C)C | C26H33NO6S
solvent | THF | C1CCOC1 | C4H8O
product | 4-{1-[2-(2-bromophenyl)ethoxy]ethyl}-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline | 13.6 mg | BrC1=C(C=CC=C1)CCOC(C)C1=CC(NC2=CC=C(C=C12)C1=C(C=CC=C1)OC)(C)C | C28H30BrNO2
